US05604280
Spiro[fluorene-9,2'-[2H]naphtho[1,2-b]-pyrane]
3.09 g of 9-ethynyl-9-fluorenol (15 mmoles) and 2.49 g of 1-naphthol (17.25 mmoles) were dissolved under reflux in 30 ml of anhydrous toluene in an inert atmosphere. 0.03 g of PTSA was then added. The reaction mixture was refluxed in an inert atmosphere for 2 hours 30 minutes. On returning to room temperature, the mixture was poured onto an aqueous 10% caustic soda solution. After decanting, the aqueous phase was continuously extracted with dichloromethane. The organic phases were combined and dried over magnesium sulphate. The solvent was removed under reduced pressure. The compound was precipitated out with hexane then recrystallised from toluene.

reactant | 9-ethynyl-9-fluorenol | 15 mmoles, 3.09 g | C(#C)C1(C2=CC=CC=C2C=2C=CC=CC12)O | C15H10O
reactant | 1-naphthol | 17.25 mmoles, 2.49 g | C1(=CC=CC2=CC=CC=C12)O | C10H8O
reactant | PTSA | 0.03 g | CC=1C=CC(=CC1)S(=O)(=O)O | C7H8O3S
reactant | caustic soda | [OH-].[Na+]
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
product | Spiro[fluorene-9,2'-[2H]naphtho[1,2-b]-pyrane] | O1C2=C(C=CC13C1=CC=CC=C1C=1C=CC=CC13)C=CC1=CC=CC=C12 | C25H16O
